US08183289B2
To tert-Butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)acetate (1.09 g, 2.22 mmol) in 6 ml of 7 N ammonia in methanol at ambient temperature was added Raney-Ni (0.019 g) and the reaction was stirred under a balloon of hydrogen gas at ambient temperature. The reaction was filtered and concentrated to give tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-(aminomethyl)phenyl)acetate (0.160 g, 15%).

reactant | tert-Butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-cyanophenyl)acetate | 2.22 mmol, 1.09 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC(C)(C)C)C#N)C=C2)C=C1 | C28H27ClN2O4
reactant | hydrogen | [H][H] | H2
solvent | ammonia | 7 N, 6 ml | N | H3N
solvent | methanol | CO | CH4O
catalyst | Ni | 0.019 g | [Ni] | Ni
product | tert-butyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-(aminomethyl)phenyl)acetate | 0.160 g, 15% | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC(C)(C)C)CN)C=C2)C=C1 | C28H31ClN2O4
